US06855710B2
(Z)-3-[1-(2-methoxycarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Example 1 from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone and methyl anthranilate in DMF and subsequent brief treatment with sodium hydroxide solution in methanol.

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | methyl anthranilate | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | (Z)-3-[1-(2-methoxycarbonyl-phenylamino)-1-phenyl-methylidene]-2-indolinone | COC(=O)C1=C(C=CC=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C23H18N2O3
